US04167568
2-(5-Amino-2-propoxyphenyl)-8-azapurin-6-one (1.5 g) was dissolved in a hot mixture of concentrated hydrochloric acid (4 ml) and water (20 ml). The solution was then cooled to 0° C. to give a suspension of 2-(5-amino-2-propoxyphenyl)-8-azapurin-6-one hydrochloride. The stirred suspension was treated with a solution of sodium nitrite (0.5 g) in water (2 ml) during 10 minutes. After stirring for one hour at 0° C., a sufficient quantity of sulphamic acid was added to decompose the excess of nitrous acid. The resulting ice-cold solution was then added, dropwise, to a stirred mixture of acetylacetone (2 ml), ethanol (20 ml), water (10 ml) and sodium acetate (5 g) at 0° C. during 30 minutes. After a further 30 minutes, the thick yellow mixture was filtered, and the precipitate was washed with water and sucked dry. Recrystallisation from a mixture of dimethylformamide and methanol gave 2-[5-(2,4dioxopent-3-ylazo)-2-propoxyphenyl]-8-azapurin-6-one (1.4 g), m.p. 288°-290° C. (with decomposition).

reactant | 2-(5-Amino-2-propoxyphenyl)-8-azapurin-6-one | 1.5 g | NC=1C=CC(=C(C1)C1=NC(C2=NN=NC2=N1)=O)OCCC | C13H12N6O2
reactant | 2-(5-amino-2-propoxyphenyl)-8-azapurin-6-one hydrochloride | Cl.NC=1C=CC(=C(C1)C1=NC(C2=NN=NC2=N1)=O)OCCC
reactant | sodium nitrite | 0.5 g | N(=O)[O-].[Na+]
reactant | sulphamic acid | S(N)(O)(=O)=O | H3NO3S
reactant | nitrous acid | N(=O)O | HNO2
reactant | acetylacetone | 2 ml | C(C)(=O)CC(C)=O | C5H8O2
reactant | sodium acetate | 5 g | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | 4 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[5-(2,4dioxopent-3-ylazo)-2-propoxyphenyl]-8-azapurin-6-one | 1.4 g | O=C(C)C(C(C)=O)N=NC=1C=CC(=C(C1)C1=NC(C2=NN=NC2=N1)=O)OCCC | C18H17N7O4
